US09382238B2
To a solution of 3-(4-methyl-1H-pyrazol-1-yl)-5-(trifluoromethyl)aniline (160 mg, 0.663 mmol) and 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (274 mg, 0.663 mmol) in pyridine (8 mL) was added T3P® (2111 mg, 3.32 mmol) in portions. Then the mixture was stirred at 16° C. for 1 h. LCMS analysis showed the starting material disappeared. 10 mL of water was added dropwise into the reaction solution and then the mixture was filtered. The filter cake was washed with water (20 mL) and dried in vacuo to afford pure product 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(4-methyl-1H-pyrazol-1-yl)-5-(trifluoromethyl)phenyl)acetamide (200 mg, 0.263 mmol, 39.7% yield). 1H NMR (400 MHz, CD3OD): δ 8.24 (s, 1H), 8.06 (s, 1H), 7.96 (d, J=2.0 Hz, 1H), 7.87 (s, 1H), 7.74 (s, 1H), 7.57 (s, 1H), 7.48-7.42 (m, 3H), 7.40 (d, J=9.0 Hz, 3H), 6.91 (d, J=8.8 Hz, 2H), 5.37 (s, 2H), 4.18-4.13 (m, 2H), 3.86 (s, 2H), 3.79 (s, 3H), 2.16 (s, 3H), 1.43 (t, J=7.0 Hz, 3H). ES-LCMS: m/z 635.1 (M+H).

reactant | 3-(4-methyl-1H-pyrazol-1-yl)-5-(trifluoromethyl)aniline | 0.663 mmol, 160 mg | CC=1C=NN(C1)C=1C=C(N)C=C(C1)C(F)(F)F | C11H10F3N3
reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.663 mmol, 274 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | water | 10 mL | O | H2O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(4-methyl-1H-pyrazol-1-yl)-5-(trifluoromethyl)phenyl)acetamide | 0.263 mmol, 200 mg, 39.7% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)N1N=CC(=C1)C)F | C34H30F4N4O4
